US06730792B2
A solution of 3-(dimethylamino)-1-(3-hydroxyphenyl)-2-propen-1-one (2.2 g, 11.5 mmol) and hydroxylamine hydrochloride (1.17 g, 16.8 mmol) in 45 ml dioxane/water 1:1 is heated for 2 hours at 60° C. The reaction is poured into ice-water and the precipitate is collected by filtration, washed with water, and dried in vacuo to give 1.4 g of 3-(5-isoxazolyl)phenol (75.5%). This phenolic product is reacted with (2S)-glycidyl 3-nitrobenzenesulfonate substantially as described for Epoxide 1 to give 1.33 g of the title epoxide (70%).

reactant | 3-(dimethylamino)-1-(3-hydroxyphenyl)-2-propen-1-one | 11.5 mmol, 2.2 g | CN(C=CC(=O)C1=CC(=CC=C1)O)C | C11H13NO2
reactant | hydroxylamine hydrochloride | 16.8 mmol, 1.17 g | Cl.NO
solvent | dioxane water | 45 ml | O1CCOCC1.O
product | 3-(5-isoxazolyl)phenol | 1.4 g, 75.5% | O1N=CC=C1C=1C=C(C=CC1)O | C9H7NO2
